US05445724
Preparation of Benzyl Triphenylphosphonioacetate Chloride
23.6 g (0.1 mol) of triphenylphosphine were suspended in 70 ml of toluene. 18.5 g (0.1 mol) of benzyl chloroacetate were added dropwise and the mixture was heated at the boil for two hours. After cooling down to room temperature, the precipitated product was filtered off and washed with diethyl ether. Drying left 40.8 g (corresponding to a yield of 90%) of the title compound in the form of colorless crystals. The product was more than 99% pure.

reactant | triphenylphosphine | 0.1 mol, 23.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzyl chloroacetate | 0.1 mol, 18.5 g | ClCC(=O)OCC1=CC=CC=C1 | C9H9ClO2
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | Benzyl Triphenylphosphonioacetate Chloride | yield of 90% | [Cl-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1 | InChI=1S/C27H24O2P.ClH/c28-27(29-21-23-13-5-1-6-14-23)22-30(24-15-7-2-8-16-24,25-17-9-3-10-18-25)26-19-11-4-12-20-26;/h1-20H,21-22H2;1H/q+1;/p-1
